US03962438
2-(2-Hydroxyethyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione-7-oxide
When 2-(2-hydroxyethyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione was oxidized with m-chloroperbenzoic acid as described in the procedure of Example 6, the title compound was obtained, m.p. 205-206° (ethanol).

reactant | 2-(2-hydroxyethyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione | OCCN1C(N2C3=C(C=CC=C3SC=3C=CC(=CC23)C(F)(F)F)C1=O)=O | C17H11F3N2O3S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 2-(2-Hydroxyethyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione-7-oxide | OCCN1C(N2C3=C(C=CC=C3S(C=3C=CC(=CC23)C(F)(F)F)=O)C1=O)=O | C17H11F3N2O4S
